US07521455B2
2-methyl-3-{4-[2-(1-piperidinyl)ethoxy]phenyl}-4(3H)-quinazolinone
2-methyl-3-(4-hydroxyphenyl)-4-(3H)quinazolinone synthesized according to Example 1-(1) and -(2) (100 mg, 0.40 mmol), 2-(1-piperidinyl)ethanol (89 mg, 0.50 mmol) and triphenylphosphine (125 mg, 0.50 mmol) were dissolved in dry tetrahydrofuran (2 mL) and cooled on an ice bath. Diethylazodicarboxylate (75 uL, 0.50 mmol) was dripped in at 0° C. and stirred at room temperature for 48 hours. The solvent was distilled off under reduced pressure, ether was added, the solid precipitate was filtered off and the filtrate was concentrated. The residue was purified by silica gel column chromatography (chloroform/methanol=30/1) and the title compound (124 mg, 0.86%) was obtained as a light brown oily substance.

reactant | 2-methyl-3-(4-hydroxyphenyl)-4-(3H)quinazolinone | CC1=NC2=CC=CC=C2C(N1C1=CC=C(C=C1)O)=O | C15H12N2O2
reactant | 2-(1-piperidinyl)ethanol | 0.50 mmol, 89 mg | N1(CCCCC1)CCO | C7H15NO
reactant | triphenylphosphine | 0.50 mmol, 125 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Diethylazodicarboxylate | 0.50 mmol, 75 uL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 2-methyl-3-{4-[2-(1-piperidinyl)ethoxy]phenyl}-4(3H)-quinazolinone | 124 mg, 0.86% | CC1=NC2=CC=CC=C2C(N1C1=CC=C(C=C1)OCCN1CCCCC1)=O | C22H25N3O2
